US04849419
S-(2,4,5-Trichlorophenyl) 4-(hydroxy)thiobenzoate
S-(2,4,5-Trichlorophenyl) 4-(acetoxy)thiobenzoate (10 g) in tetrahydrofuran was treated with 25 ml of 5.6M hydrochloric acid and stirred at room temperature overnight. The solvents were evaporated in vacuo to give a product which was purified by column chromatography (silica; ethyl acetate-hexane mixtures as eluant) to afford the title compound (5.4 g).

reactant | S-(2,4,5-Trichlorophenyl) 4-(acetoxy)thiobenzoate | 10 g | C(C)(=O)OC1=CC=C(C(=O)SC2=C(C=C(C(=C2)Cl)Cl)Cl)C=C1 | C15H9Cl3O3S
reactant | hydrochloric acid | 5.6M, 25 ml | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | S-(2,4,5-Trichlorophenyl) 4-(hydroxy)thiobenzoate | 5.4 g | OC1=CC=C(C(=O)SC2=C(C=C(C(=C2)Cl)Cl)Cl)C=C1 | C13H7Cl3O2S
